US09260450B2
Step i. (2,2-Dimethoxy-ethyl)-thiophen-2-ylmethylene-amine
A solution of thiophene-2-carboxaldehyde (7.5 mL, 82.3 mmol, Alfa Aesar), aminoacetaldehyde dimethyl acetal (8.82 mL, 82.3 mmol, Alfa Aesar) in 100 mL toluene was heated to 115° C. using a Dean-Stark trap to remove water. After 3 hours, the reaction was cooled to room temperature. The reaction was placed on a rotary evaporator to evaporate the toluene, which yielded a brown liquid (about 17.3 g), which was used without further manipulation in the next step. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 3.42 (6H, s), 3.73 (1H, d, J=5.3 Hz), 4.65 (1H, t, J=5.3 Hz), 7.07-7.41 (3H, m).

reactant | thiophene-2-carboxaldehyde | 82.3 mmol, 7.5 mL | S1C(=CC=C1)C=O | C5H4OS
reactant | aminoacetaldehyde dimethyl acetal | 82.3 mmol, 8.82 mL | COC(CN)OC | C4H11NO2
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | (2,2-Dimethoxy-ethyl)-thiophen-2-ylmethylene-amine | about 17.3 g | COC(CN=CC=1SC=CC1)OC | C9H13NO2S
